Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Postmenopausal bleeding, endometrial cancer
 
Major Surgical or Invasive Procedure:
Robot-assisted total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, pelvic and para-aortic lymphadenectomy, 
omental biopsy, cystoscopy
 
History of Present Illness:
Ms ___ is a ___, gravida 5, para 2, who initially 
presented with postmenopausal bleeding. She underwent 
endometrial biopsy on ___, which revealed endometrial
carcinoma, clear cell type, FIGO grade III.  She also underwent 
a CT of the abdomen, pelvis and chest on ___, which 
revealed no evidence of metastatic disease.  

At initial gyn onc consultation on ___ she was in her 
usual state of health, and her vaginal bleeding had resolved. 
She denied any pain, fevers, chills, changes to her 
genitourinary or gastrointestinal habits. After discussing the 
implications, prognosis, and treatment of clear cell carcinoma, 
pt decided to undergo definitive treatment and staging with 
total hysterectomy, bilateral salpingo-oophorectomy, 
abdominopelvic lymphadenectomy, and omental biopsy. She 
presented to ___ on ___ for scheduled surgery.
 
Past Medical History:
Past Medical History:  Weight is 134 pounds.  Her height is 5 
feet 1 inch.  She has a history of hemorrhoids; however, she 
denies any other medical history.

Health Maintenance:  Her last mammogram was this month and 
reportedly had dense breast tissue, but was otherwise normal. 
Her last colonoscopy was ___ and hemorrhoids were diagnosed.

The last bone density scan was in ___.

Past Surgical History:  She had a C-section in ___ and three D 
and Cs.

Obstetrics History:  She is gravida 5, para 2, with one vaginal 
delivery, one C-section as above.

Gynecologic History:  She underwent menopause in ___.  She has 
never had an abnormal Pap smear and her last one was ___, which was negative.  She is currently not sexually active.
 
Social History:
___
Family History:
There is no known breast, ovary, uterine, cervical, vaginal or 
colon cancer in the family.  She has high blood pressure in her 
father and mother.
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing robot-assisted total laparoscopic hysterectomy, 
bilateral salpingo-oophorectomy, pelvic and para-aortic 
lymphadenectomy, omental biopsy, and cystoscopy. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV Dilaudid and 
Toradol. Her diet was advanced without difficulty and she was 
transitioned to PO Oxycodone, Acetaminophen, and Ibupforen. On 
post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
Calcium, Zyrtec
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
do not exceed 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*50 Capsule Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hour Disp #*50 
Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
do not drink alcohol or drive when taking oxycodone 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*35 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.    
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
* If you have staples, they will be removed at your follow-up 
visit.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms
 
Followup Instructions:
___